US08304419B2
A solution of tert-butyl dicarbonate (57.3 g, 263 mmol) in acetone (500 mL) was added to a solution of guanidine hydrochloride (100 g, 1050 mmol) and sodium hydroxide (84 g, 2100 mmol) in water (400 mL) at 0° C. The mixture was stirred at RT for 2 hrs. The acetone was removed by rotary evaporation and the remaining suspension was extracted with EtOAc (3×). The combined organic layers were dried over sodium sulfate and the solvent was evaporated to give 1,1-dimethylethyl [amino(imino)methyl]carbamate (42 g, 100%). 1H NMR (400 MHz, chloroform-d) δ ppm 6.08 (br. s., 4H), 1.44 (s, 9H).

reactant | tert-butyl dicarbonate | 263 mmol, 57.3 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
reactant | guanidine hydrochloride | 1050 mmol, 100 g | Cl.NC(=N)N
reactant | sodium hydroxide | 2100 mmol, 84 g | [OH-].[Na+]
solvent | acetone | 500 mL | CC(=O)C | C3H6O
solvent | water | 400 mL | O | H2O
product | 1,1-dimethylethyl [amino(imino)methyl]carbamate | 42 g, 100% | NC(=N)NC(OC(C)(C)C)=O | C6H13N3O2
